US05627198
N-[5-(Phenylsulfonyl)thien-2-yl]-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide
Thionyl chloride (80 μl, 1.1 mmol) is added to 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid (170 mg, 1.08 mmol) in 5 ml of N,N-dimethylacetamide at -15°/-10° C. and the mixture is stirred at this temperature for one hour. After adding 2-amino-5-(phenylsulfonyl)thiophene (170 mg, 0.710 mmol) and equilibration to room temperature and after the reaction has ended, the reaction mixture is poured into 200 ml of water and subjected to extraction with 3×100 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and filtered and the solvent is distilled off. The orange-colored oil which remains is purified by flash chromatography (eluent: 50% v/v ethyl acetate in petroleum ether (40/60)).

reactant | Thionyl chloride | 1.1 mmol, 80 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid | 1.08 mmol, 170 mg | FC(C(C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | 2-amino-5-(phenylsulfonyl)thiophene | 0.710 mmol, 170 mg | NC=1SC(=CC1)S(=O)(=O)C1=CC=CC=C1 | C10H9NO2S2
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | N-[5-(Phenylsulfonyl)thien-2-yl]-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(S1)NC(C(C(F)(F)F)(C)O)=O | C14H12F3NO4S2
